US07321040B2
[3-(2-Chloro-phenyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl]-p-tolyl-methanol
In a flame-dried flash under nitrogen a solution of 6-bromo-3-(2-chloro-phenyl)-[1,2,4]triazolo[4,3-a]pyridine (205 mg, 0.66 mmol) in THF (2.5 mL) was cooled to 0° C. A solution of isopropylmagnesium chloride (1.3 eq) was added dropwise, followed by 4-methylbenzaldehyde (1 equivalent), and the resulting mixture was warmed to 50° C. for 3 hours. The reaction was cooled and quenched with water/ethyl acetate. The organic layer was separated, concentrated in vacuo, and the residue purified by flash chromatography (eluting with 80% ethyl acetate/hexane) to give the title compound (67 mg, 29%). MS (M+1)=350.5.

reactant | 6-bromo-3-(2-chloro-phenyl)-[1,2,4]triazolo[4,3-a]pyridine | 0.66 mmol, 205 mg | BrC=1C=CC=2N(C1)C(=NN2)C2=C(C=CC=C2)Cl | C12H7BrClN3
reactant | isopropylmagnesium chloride | 1.3 eq | C(C)(C)[Mg]Cl
reactant | 4-methylbenzaldehyde | 1 equivalent | CC1=CC=C(C=O)C=C1 | C8H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | [3-(2-Chloro-phenyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl]-p-tolyl-methanol | 67 mg, 29% | ClC1=C(C=CC=C1)C1=NN=C2N1C=C(C=C2)C(O)C2=CC=C(C=C2)C | C20H16ClN3O
